US04158002
For example, they can be prepared by a method which starts from p-nitroaniline and goes through a diazonium salt (Green et al., "J. Chem. Soc." vol. 101, pp. 2443-52 (1912)). They can also be prepared by the method reported in Berichte d. D. Chem. Gesellschaft 32, 3256 (1899) and J. Chem. Soc. 1953, 2150 which comprises reacting azobenzene with fuming nitric acid to form 4,4'-dinitroazobenzene.

reactant | p-nitroaniline | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | azobenzene | N(=NC1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 4,4'-dinitroazobenzene | [N+](=O)([O-])C1=CC=C(C=C1)N=NC1=CC=C(C=C1)[N+](=O)[O-] | C12H8N4O4
